### ISSUE TITLE
aesop ignores @[eliminator]

### ISSUE THREAD

**Issue by semorrison** [JLimperg/aesop#59]
It would be lovely if `aesop`s `cases` rules used the @[eliminator] attributes, like `induction` and `cases` do:

```
import Aesop

structure Opposite (α : Type _) :=
  /-- The canonical map `αᵒᵖ → α`. -/
  unop : α

namespace Opposite

def op (x : α) : Opposite α := ⟨x⟩

@[eliminator]
protected def rec' {F : Opposite α → Sort v} (h : ∀ X, F (op X)) : ∀ X, F X := fun X => h (unop X)

example (x : Opposite α) : x = x := by
  induction x with
  | _ X => 
    guard_target = op X = op X
    rfl

attribute [aesop safe cases] Opposite

theorem bar (x y : Opposite α) : x = y := by
  aesop (options := { warnOnNonterminal := false })
  -- Oops, used Opposite.casesOn, not Opposite.rec
  sorry

#print bar 
```

**Comment by JLimperg** [comment]
This would indeed be nice. Problem: the `MetaM` `cases` tactic, which `cases` rules use, doesn't support custom eliminators (and it would be nontrivial to add this support). Possible solution: use the `ElabM` `cases` tactic. This would have to be lowered to `MetaM`, but maybe that's not an issue in practice. It might also resolve some issues with the tactic script generation functionality, where the discrepancy between `MetaM` `cases` and `ElabM` `cases` can lead to bugs.
